US07566712B2
Combine 2-bromomethyl-4-(3-chloro-phenyl)-6-[4-(3-trifluoromethyl-pyridin-2-yl)-piperazin-1-yl]-pyrimidine (32 mg, 0.06 mmol), diethylamine (0.5 mL), DMA (2 mL) and heat at 80° C. for 3 hours. Let cool to room temperature and add water (5 mL). Extract with EtOAc (10 mL), wash with water (10 mL), dry (Na2SO4) and evaporate. Purify by column chromatography (1:1 hexanes/EtOAc) to obtain {4-(3-chloro-phenyl)-6-[4-(3-trifluoromethyl-pyridin-2-yl)-piperazin-1-yl]-pyrimidin-2-ylmethyl}-diethyl-amine as a yellow solid.

reactant | 2-bromomethyl-4-(3-chloro-phenyl)-6-[4-(3-trifluoromethyl-pyridin-2-yl)-piperazin-1-yl]-pyrimidine | 0.06 mmol, 32 mg | BrCC1=NC(=CC(=N1)C1=CC(=CC=C1)Cl)N1CCN(CC1)C1=NC=CC=C1C(F)(F)F | C21H18BrClF3N5
reactant | diethylamine | 0.5 mL | C(C)NCC | C4H11N
reactant | DMA | 2 mL | CC(=O)N(C)C | C4H9NO
solvent | water | 5 mL | O | H2O
product | {4-(3-chloro-phenyl)-6-[4-(3-trifluoromethyl-pyridin-2-yl)-piperazin-1-yl]-pyrimidin-2-ylmethyl}-diethyl-amine | ClC=1C=C(C=CC1)C1=NC(=NC(=C1)N1CCN(CC1)C1=NC=CC=C1C(F)(F)F)CN(CC)CC | C25H28ClF3N6
